US06949652B2
A 5 L three-necked round-bottomed flask, equipped with a mechanical stirrer, an addition funnel and a thermometer, was charged with N-[(2,5-Difluoro-phenyl)-(toluene-4-sulfonyl)-methyl]-formamide (207.0 g, 0.636 moles) and tetrahydrofuran (J. T. Baker, low water, 1.5 L). Phosphorous oxychloride (118.6 ml, 1.27 moles) was quickly poured into the reaction mixture (less than 5 minutes). The mixture was stirred at room temperature for 10 minutes and then cooled to 4° C. using an ice/water bath. 2,6-Lutidine (445 ml, 3.82 moles) was added via the addition funnel over a period of 30 minutes. The cooling bath was then removed and the mixture was stirred at room temperature for 18 hours. The reaction mixture was poured into a stirred and ice-water cooled solution of 1.5 kg of ice and 1.1 L of saturated aqueous sodium bicarbonate (NaHCO3). The mixture was then extracted with ethyl acetate (2 L plus 1.5 L). The combined organic extracts were washed with 1N aqueous hydrochloric acid (3 L), saturated aqueous NaHCO3 (3 L) and brine (3 L); and then dried (MgSO4). After removing all solvents, isopropanol (1.8 L) was added to the residual brownish solid. The resulting slurry was stirred at room temperature for 2 hours. Water (0.9 L) was added and the slurry was stirred for additional 30 minutes at room temperature and then filtered. The cake was washed with 2:1 isopropanol-water (2×500 ml) and dried in a vacuum-oven (30° C.) for 48 hours. The product, [α-(p-Toluenesulfonyl)-2,5-difluorobenzyl]isonitrile (133.4 g, yield 68%,), was obtained as a brownish powder.

reactant | N-[(2,5-Difluoro-phenyl)-(toluene-4-sulfonyl)-methyl]-formamide | 0.636 moles, 207.0 g | FC1=C(C=C(C=C1)F)C(NC=O)S(=O)(=O)C1=CC=C(C=C1)C | C15H13F2NO3S
reactant | Phosphorous oxychloride | 1.27 moles, 118.6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,6-Lutidine | 3.82 moles, 445 ml | N1=C(C=CC=C1C)C | C7H9N
solvent | tetrahydrofuran | 1.5 L | O1CCCC1 | C4H8O
product | [α-(p-Toluenesulfonyl)-2,5-difluorobenzyl]isonitrile | 133.4 g, yield 68% | C1(=CC=C(C=C1)S(=O)(=O)C(C1=C(C=CC(=C1)F)F)[N+]#[C-])C | C15H11F2NO2S
